US05075415
94 parts (1 mol) of phenol, 100 parts of water and 0.5 part of calcium hydroxide were charged in a kolben reactor equipped with a thermometer, stirrer, reflux condenser and dropping funnel, to which 114 parts (1.4 mols) of 37% formalin was dropwise added for 0.5 hour while stirring at 70° C., and the mixture was further stirred at the same temperature for 5 hours. 172.2 part (1.4 mols) of 3-amino-5-methylphenol was then added to the mixture, stirred at 120° C. for 1 hour, then heated at 150° C. and a reduced pressure of 40 torr for 1 hour to distil off water and further heated at 200° C. and a reduced pressure of 5 torr for 1 hour to reduce the unreacted monomers, thus obtaining a co-condensation resin of phenol.3-amino-5-methylphenol.formaldehyde.

reactant | phenol | 1 mol | C1(=CC=CC=C1)O | C6H6O
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | formalin | 1.4 mols | C=O | CH2O
reactant | 3-amino-5-methylphenol | 1.4 mols | NC=1C=C(C=C(C1)C)O | C7H9NO
solvent | water | O | H2O
product | phenol.3-amino 5-methylphenol | C1=CC(=CC(=C1)O)N.CC=1C=CC=C(C1)O | InChI=1S/C7H8O.C6H7NO/c1-6-3-2-4-7(8)5-6;7-5-2-1-3-6(8)4-5/h2-5,8H,1H3;1-4,8H,7H2
